US04009208
121. N,N'-(trans-3,4-epoxyheptene-1,7-diyl)bis(4trifluoromethoxybenzamide)
To a stirred and chilled (3° C., kept in an ice bath) solution containing N,N'-(trans-3-heptene-1,7-diyl)bis(4-trifluoromethoxybenzamide) dissolved in 300 ml. of chloroform was added in one portion 7.2 g. of 3-chloroperbenzoic acid. The reaction mixture was stirred for an additional 30 minutes at 3°-5° C. and then was allowed to stand at 5° C. for an additional 42 hours. The reaction mixture was then washed successively with three 50 ml. portions of cold 5% aqueous potassium carbonate solution and next with saturated brine, and then it was dried over anhydrous potassium carbonate. The solvent was distilled off in vacuo and the remaining white solid was recrystallized from benzene-ethanol to yield 7.75 g. of N,N'-(trans-3,4-epoxyheptane-1,7-diyl)bis( 4-trifluoromethoxybenzamide), m.p. 121°-123° C.

reactant | N,N'-(trans-3-heptene-1,7-diyl)bis(4-trifluoromethoxybenzamide) | C(C\C=C\CCCNC(C1=CC=C(C=C1)OC(F)(F)F)=O)NC(C1=CC=C(C=C1)OC(F)(F)F)=O | C23H22F6N2O4
reactant | 3-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N,N'-(trans-3,4-epoxyheptene-1,7-diyl)bis(4trifluoromethoxybenzamide) | O1C(/C=C/NC(C2=CC=C(C=C2)OC(F)(F)F)=O)C1CCCNC(C1=CC=C(C=C1)OC(F)(F)F)=O | C23H20F6N2O5
